US04966902
(1.1) 6-Chloropyridine-3-methanol
69.5 g (0.5 mol) of 6-hydroxynicotinic acid are introduced into a mixture of 200 g (1 mol) of phosphorus pentachloride and 233 g (1.5 mol) of phosphorus oxychloride at room temperature, the mixture is stirred at 95° C. for 5 hours and excess phosphorus chlorides are then removed in vacuo. The crystalline residue is introduced into a solution of 75 g (1.98 mol) of sodium borohydride in 1,000 ml of water, the temperature being maintained at 30° C. at most. The mixture is then stirred at room temperature until the completion of gas evolution and is filtered with suction from solid material, and the filtrate is extracted using ether.

reactant | 6-hydroxynicotinic acid | 0.5 mol, 69.5 g | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
reactant | phosphorus pentachloride | 1 mol, 200 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus oxychloride | 1.5 mol, 233 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium borohydride | 1.98 mol, 75 g | [BH4-].[Na+]
solvent | water | 1,000 ml | O | H2O
product | 6-Chloropyridine-3-methanol | ClC1=CC=C(C=N1)CO | C6H6ClNO
